US06350735B1
(2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate
A mixture of (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-iodo-9H-purin-9-yl)tetrahydro-3-furanyl acetate (J. Med. Chem., 1992, 35, 248) (0.5 g, 0.93 mmol) and copper (II) cyanide (0.11 g, 1.23 mmol) in N,N-dimethylformamide was heated at 115° C. for 90 minutes. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel eluting with dichloromethane:ethyl acetate (4:1 by volume) to give a product which was then azeotroped sequentially with dichloromethane and diethyl ether to afford the title compound as a solid (0.22 g).

reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-iodo-9H-purin-9-yl)tetrahydro-3-furanyl acetate | 0.93 mmol, 0.5 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)I)COC(C)=O | C16H16ClIN4O7
reactant | copper (II) cyanide | 1.23 mmol, 0.11 g | [Cu](C#N)C#N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate | 0.22 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)C#N)COC(C)=O | C17H16ClN5O7
